US08383636B2
Synthesis of 7-((((S)-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-(methylthio)propyl)(methyl)amino)methyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
9-Deazaadenine (73 mg, 547 μmol) was added to a solution of (S)-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-N-methyl-3-(methylthio)propan-1-amine (80 mg, 365 μmol) and formaldehyde (0.044 ml, 37% aq, 547 μmol) in a 1,4-dioxane (2 ml) and water (0.5 ml) mixture and the resulting suspension heated to 90 C (bath temp). After 1 h the reaction was cooled to ambient and 7N NH3 in MeOH (2.5 ml) was added and the resulting reaction left to stir for a further 1 h. The reaction was then concentrated in vacuo and the residue purified by flash chromatography on silica gel eluting with 10% 7N NH3 in MeOH/DCM=>20% 7N NH3 in MeOH/DCM to afford the title compound (110 mg, 83%) as a syrup. 1H NMR (CD3OD) δ 8.16 (s, 1H), 7.46 (s, 1H), 3.91 (m, 2H), 3.57 (m, 2H), 2.71 (dd, J=13.2, 4.1 Hz, 1H), 2.49 (m, 2H), 2.32 (m, 1H), 2.26 (s, 3H), 2.04 (s, 3H), 1.94 (m, 1H), 1.31 (s, 3H), 1.25 (s, 3H).

reactant | 9-Deazaadenine | 547 μmol, 73 mg | C=1N=C2C(=C(N1)N)N=CC2 | C6H6N4
reactant | (S)-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-N-methyl-3-(methylthio)propan-1-amine | 365 μmol, 80 mg | CC1(OC[C@H](O1)[C@H](CNC)CSC)C | C10H21NO2S
reactant | formaldehyde | 547 μmol, 0.044 ml | C=O | CH2O
reactant | NH3 | 7N | N | H3N
solvent | MeOH | 2.5 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 7-((((S)-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-(methylthio)propyl)(methyl)amino)methyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 110 mg, 83% | CC1(OC[C@H](O1)[C@H](CN(C)CC1=CNC2=C1N=CN=C2N)CSC)C | C17H27N5O2S
